US08614327B2
To a stirred solution of N,N-dibenzyl-6-chloro-5-(trifluoromethyl)pyridin-2-amine (100 mg, 0.27 mmol) in THF (5 mL) was added freshly produced CH3ONa (42 mg, 0.78 mmol) at room temperature. The mixture was heated to reflux for 10 h and then cooled to the room temperature, diluted with water (5 mL) and extracted with CH2Cl2 (6 mL×3). The combined organic layers were dried over anhydrous Na2SO4, filtered and concentrated under vacuum. The residue was purified by silica gel column chromatography using 2%-10% EtOAc in petroleum ether as eluant to obtain N,N-dibenzyl-6-methoxy-5-(trifluoromethyl)pyridin-2-amine (90 mg, 91%). 1H NMR (400 MHz, CDCl3) δ 7.53 (d, J=8.4 Hz, 1H), 7.35-7.22 (m, 10H), 6.02 (d, J=8.4 Hz, 1H), 4.79 (s, 4H), 3.90 (s, 3H).

reactant | N,N-dibenzyl-6-chloro-5-(trifluoromethyl)pyridin-2-amine | 0.27 mmol, 100 mg | C(C1=CC=CC=C1)N(C1=NC(=C(C=C1)C(F)(F)F)Cl)CC1=CC=CC=C1 | C20H16ClF3N2
reactant | CH3ONa | 0.78 mmol, 42 mg | CO[Na]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | N,N-dibenzyl-6-methoxy-5-(trifluoromethyl)pyridin-2-amine | 90 mg, 91% | C(C1=CC=CC=C1)N(C1=NC(=C(C=C1)C(F)(F)F)OC)CC1=CC=CC=C1 | C21H19F3N2O
